US06982348B2
To a solution of (3-(phenyloxy)phenyl)methanol (10 g, 49.4 mmol) in chloroform (20 ml) was added thionyl chloride (36 ml, 500 mmol) and the mixture was heated under reflux overnight. The reaction solution was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate) to give 1-(chloromethyl)-3-(phenyloxy)benzene (10.7 g, 98%).

reactant | (3-(phenyloxy)phenyl)methanol | 49.4 mmol, 10 g | C1(=CC=CC=C1)OC=1C=C(C=CC1)CO | C13H12O2
reactant | thionyl chloride | 500 mmol, 36 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(chloromethyl)-3-(phenyloxy)benzene | 10.7 g, 98% | ClCC1=CC(=CC=C1)OC1=CC=CC=C1 | C13H11ClO
